simulator lang=spectre
global 0

ahdl_include "./dut/comparator_delay_overdrive_meter.va"
ahdl_include "./support/support_overdrive_delay_comparator.va"

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0.0
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 delay=1n period=6n width=2.5n rise=60p fall=60p
Vvinp (vinp 0) vsource type=pwl wave=[0 0.470 5.8n 0.470 6n 0.440 11.8n 0.440 12n 0.454 17.8n 0.454 18n 0.4475 23.8n 0.4475 24n 0.465]
Vvinn (vinn 0) vsource type=pwl wave=[0 0.430 5.8n 0.430 6n 0.460 11.8n 0.460 12n 0.446 17.8n 0.446 18n 0.4525 23.8n 0.4525 24n 0.435]
XCMP (vdd vss clk vinp vinn outp outn) support_overdrive_delay_comparator
XMEAS (vdd vss clk vinp vinn outp outn delay_ps overdrive_mv polarity valid) comparator_delay_overdrive_meter

tran tran stop=29n maxstep=5p
save clk vinp vinn outp outn delay_ps overdrive_mv polarity valid
